US06872720B2
To 2-fluorophenylacetic acid (25 g, 0.16 mol) and methyl lactate (17 g, 0.16 mol) in THF (600 ml) was added 1,3-dicyclohexylcarbodiimide (34 g, 0.16 mol) and 4-dimethylaminopyridine (0.99 g, 8.1 mmol) at 5° C. The mixture was allowed to warm to room temperature and stirred under nitrogen overnight. The solvent was removed in vacuo, then the residue was taken up in diethyl ether (300 ml), and the resulting slurry was filtered to remove insoluble material. The filtrate was concentrated in vacuo, and the residual oil was dissolved in potassium tert-butoxide solution (162 ml of a 1.0 M solution in tert-butanol). The mixture was stirred at reflux for 16 h and was allowed to cool to room temperature. Water (300 ml) was added, and the solution was washed with diethyl ether (2×100 ml). The aqueous solution was acidified to pH 1 with 5 N hydrochloric acid. The product formed an immiscible oil, which solidified upon standing. This was collected by filtration, washed with water and dried at 50° C., yielding 3-(2-fluorophenyl)-4-hydroxy-5-methyl-5H-furan-2-one as a pale yellow solid (23.2 g). 1H NMR (400 MHz, CDCl3) δ 1.46 (3H, d, J=6.7 Hz), 5.00 (1H, q, J=6.7 Hz), 7.22 (2H, m), 7.39 (2H, m), 12.50 (1H, br s).

reactant | 2-fluorophenylacetic acid | 0.16 mol, 25 g | FC1=C(C=CC=C1)CC(=O)O | C8H7FO2
reactant | methyl lactate | 0.16 mol, 17 g | C(C(O)C)(=O)OC | C4H8O3
reactant | 1,3-dicyclohexylcarbodiimide | 0.16 mol, 34 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 8.1 mmol, 0.99 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(2-fluorophenyl)-4-hydroxy-5-methyl-5H-furan-2-one | 23.2 g | FC1=C(C=CC=C1)C=1C(OC(C1O)C)=O | C11H9FO3
